US04923861
To a solution of oxalyl chloride (2.88 ml, 1.3 equivalents), in 25 ml of dichloromethane at -78° C. under nitrogen is added dropwise a solution of dimethylsulfoxide (DMSO) (4.70 ml, 2.6 equivalents) in 25 ml of dichloromethane. After addition, the mixture is stirred for 15 minutes at -78° C. and then a solution of 2-chloro-4-(4-fluorophenyl)-3-quinolinemethanol (7.30 g) in 50 ml dichloromethane and 20 ml dimethyl sulfoxide is added dropwise. The resulting mixture is stirred at -78° C. for one hour and then quenched by adding triethylamine (17.7 ml, 5.0 equivalents), and removing the cooling bath. A saturated aqueous solution of ammonium chloride is added. The organic layer is separated, washed with water, dried (magnesium sulfate), and evaporated to give 6.56 g of 2-chloro-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde as a yellow solid; mp 168°-169.5° C.; 1H NMR (chloroform-d): δ 10.25 (s, 1H), 8.12 (d, 1H), 7.91-7.83 (m, 1H), 7.57-7.53 (m, 2H), 7.36-7.22 (m, 4H) ppm.

reactant | oxalyl chloride | 2.88 ml, 1.3 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-4-(4-fluorophenyl)-3-quinolinemethanol | 7.30 g | ClC1=NC2=CC=CC=C2C(=C1CO)C1=CC=C(C=C1)F | C16H11ClFNO
reactant | triethylamine | 17.7 ml, 5.0 equivalents | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 4.70 ml, 2.6 equivalents | CS(=O)C | C2H6OS
product | 2-chloro-4-(4-fluorophenyl)-3-quinolinecarboxaldehyde | 6.56 g | ClC1=NC2=CC=CC=C2C(=C1C=O)C1=CC=C(C=C1)F | C16H9ClFNO
